US04568687
3-Chloro-N-[3-(1H-imidazol-1-yl)propyl]benzamide
A mixture of 6.0 g. of 1H-imidazole-1-propanamine dihydrochloride, 45 ml. of 2N sodium hydroxide and 150 ml. of methylene chloride was stirred at room temperature and 3.9 ml. of 3-chlorobenzoyl chloride was added. The reaction mixture was stirred for 18 hours, then methylene chloride and 15 ml. of 1N sodium hydroxide were added and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate, and concentrated to remove the solvent. The residue was triturated with diethyl ether and the crystalline product recovered by filtration and recrystallized from ethanol, giving the desired product, m.p. 125°-127° C.

reactant | 1H-imidazole-1-propanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCN
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[3-(1H-imidazol-1-yl)propyl]benzamide | ClC=1C=C(C(=O)NCCCN2C=NC=C2)C=CC1 | C13H14ClN3O
